US07714009B2
N2-(4-Bromo-2-methoxy-6-methylphenyl)-N7,N7-bis(2-methoxyethyl)-1-methyl-1H-benzimidazole-2,7-diamine
To a solution of 200 mg (1.66 mmol) of 1,1,3-trimethoxypropane in 25 mL of chloroform was added 5 g (1.66 mmol) of iron (II) chloride on silica (5% by weight) and the slurry was stirred at room temperature for several hours. The slurry was filtered, concentrated in vacuo to about 5 mL and added to a slurry of 200 mg (0.55 mmol) of N2-(4-bromo-2-methoxy-6-methylphenyl)-1-methyl-1H-benzimidazole-2,7-diamine, 1 mL of acetic acid and 2.5 g (5.08 mmol) of MP-CNBH3 in 10 mL of methanol and was stirred overnight. The above aldehyde preparation was repeated each day for 7 days and added to the reaction. The reaction was filtered and concentrated in vacuo to a residue. The residue was purified by flash chromatography eluting with a solution of 40% ethyl acetate/hexanes containing 2% ammonium hydroxide to give 47 mg (18%) of the title compound.

reactant | 1,1,3-trimethoxypropane | 1.66 mmol, 200 mg | COC(CCOC)OC | C6H14O3
reactant | N2-(4-bromo-2-methoxy-6-methylphenyl)-1-methyl-1H-benzimidazole-2,7-diamine | 0.55 mmol, 200 mg | BrC1=CC(=C(C(=C1)C)NC1=NC2=C(N1C)C(=CC=C2)N)OC | C16H17BrN4O
reactant | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
reactant | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 10 mL | CO | CH4O
catalyst | iron (II) chloride | 1.66 mmol, 5 g | [Fe](Cl)Cl
product | N2-(4-Bromo-2-methoxy-6-methylphenyl)-N7,N7-bis(2-methoxyethyl)-1-methyl-1H-benzimidazole-2,7-diamine | 47 mg, 18% | BrC1=CC(=C(C(=C1)C)NC1=NC2=C(N1C)C(=CC=C2)N(CCOC)CCOC)OC | C22H29BrN4O3
